US05145986
A mixture of N-(4-chloro-3-nitrobenzyl)-2,2,2-trifluoroacetamide (6.0 g, 0.0212 mol) and phosphorus pentachloride (8.9 g, 0.0427 mol) is heated to 100° C. for three hours, concentrated in vacuo to remove excess phosphorus pentachloride and triturated with methylene chloride to obtain a solution of N-(4-chloro-3-nitrobenzyl)-2,2,2-trifluoroacetimidoyl chloride in methylene chloride. The methylene chloride solution is treated with 2-chloroacrylonitrile (2.5 mL, 0.0319 mol) and triethylamine (5.9 mL, 0.0422 mol), stirred overnight at room temperature, diluted with water and extracted with ethyl acetate. The combined organic extracts are washed with water, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a residue. Chromatography of the residue using silica gel and a 4:1 hexanes/ethyl acetate solution gives the title product as a yellow solid (0.65 g, mp 258°-260° C.).

reactant | N-(4-chloro-3-nitrobenzyl)-2,2,2-trifluoroacetamide | 0.0212 mol, 6.0 g | ClC1=C(C=C(CNC(C(F)(F)F)=O)C=C1)[N+](=O)[O-] | C9H6ClF3N2O3
reactant | phosphorus pentachloride | 0.0427 mol, 8.9 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | N-(4-chloro-3-nitrobenzyl)-2,2,2-trifluoroacetimidoyl chloride | ClC1=C(C=C(CN=C(C(F)(F)F)Cl)C=C1)[N+](=O)[O-] | C9H5Cl2F3N2O2
